US07799894B2
(1) Synthesis of 2,3-di(2-thienyl)-5-(4-nitrophenyl)aminoquinoxaline
While agitating 3.1 g (9.9 mmol) of 2,3-di(2-thienyl)-5-aminoquinoxaline, 1.4 g (9.9 mmol) of 4-fluoronitrobenzene and 15 g of dimethylsulfoxide, 3.3 g (29.6 mmol) of t-butoxy potassium was gently added. After completion of the addition, the reaction container was purged with nitrogen, followed by agitation at room temperature for 14 hours. After completion of the reaction, 100 ml of water was added while cooling, and the resulting compound was filtered and dried, followed by purification with a silica gel column.

reactant | 2,3-di(2-thienyl)-5-aminoquinoxaline | 9.9 mmol, 3.1 g | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)N | C16H11N3S2
reactant | 4-fluoronitrobenzene | 9.9 mmol, 1.4 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | t-butoxy potassium | 29.6 mmol, 3.3 g | C(C)(C)(C)O[K]
solvent | dimethylsulfoxide | 15 g | CS(=O)C | C2H6OS
product | 2,3-di(2-thienyl)-5-(4-nitrophenyl)aminoquinoxaline | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)NC1=CC=C(C=C1)[N+](=O)[O-] | C22H14N4O2S2
